Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
codeine / hydrocodone / lactose
 
Attending: ___.
 
Chief Complaint:
Chronic cholecystitis 
 
Major Surgical or Invasive Procedure:
___: Laparoscopic cholecystectomy 

 
History of Present Illness:
Ms. ___ is a ___ y/o female with a history of HLD, CAD s/p
CABG and multivessel PCI, GERD, DM who was discharged yesterday
and now presents with fever to 100.4 and lethargy. 
Patient was admitted to ___ on ___ for RUQ abdominal
pain and bilious emesis. LFTs were normal. RUQUS showed
cholelithiasis with distended gallbladder, dilated CBD. ___
performed a percutaneous cholecystostomy and placement of an 8 
Fr pigtail catheter. MRCP showed acute gangrenous cholecystitis 
with well positioned perc chole tube, persistent mild distension 
of
the gallbladder lumen and new perihepatic ascites c/f leak 
around the tube. Cultures from perc cholecystostomy grew e.coli, 
and 
she was treated with IV Zosyn, transitioned to PO Bactrim on 
___
prior to discharge to rehab. Plan was to continue Bactrim with
plan for cholecystectomy as an outpatient in ___ weeks. 

 
Past Medical History:
 -HLD  
 -CAD s/p CABG and multiple PCI  
 -HTN  
 -DM  
 -OA  
 -GERD  
 -s/p partial hysterectomy (remote)  
 *is scheduled for right rotator cuff repair soon  
 
Social History:
___
Family History:
 -Mother: CHF  
 -Father: died of stroke  
 -Brother: died of leukemia  
 -Brother: died of lung disease (heavy smoker)  
 -Brother: living, has DM  
 
Physical Exam:
Prior To Discharge:
VS: 98.4, 89, 100/64, 18, 96% RA
GEN: Pleasant with NAD
HEENT: no scleral icterus, mucous membranes moist 
CV: RRR
PULM: Diminished BS bilaterally 
ABD: Laparoscopic incisions open to air and c/d/I
EXTR: Warm, no c/c/e
 
Pertinent Results:
RECENT LABS:

___ 07:36AM BLOOD WBC-15.1* RBC-3.66* Hgb-9.9* Hct-32.3* 
MCV-88 MCH-27.0 MCHC-30.7* RDW-13.6 RDWSD-43.9 Plt ___
___ 07:36AM BLOOD Glucose-200* UreaN-12 Creat-0.8 Na-138 
K-4.6 Cl-103 HCO3-23 AnGap-12
___ 07:36AM BLOOD CK-MB-9 cTropnT-0.15*
___ 07:36AM BLOOD Calcium-8.7 Phos-2.3* Mg-2.1
 
Brief Hospital Course:
The patient with h/o chronic cholecystitis was admitted to the 
___ Surgical Service for elective interval cholecystectomy. On 
___, the patient underwent laparoscopic cholecystectomy, 
which went well without complication (please see the Operative 
Note for details). After a brief, uneventful stay in the PACU, 
the patient arrived on the floor on clear liquid diet, on IV 
fluids, with a foley catheter in place, and PO Oxycodone for 
pain control. 
On POD 1, patient reported chest pain, her troponin was slightly 
elevated and Cardiology was consulted. Patient was give 
Nitroglycerin and chest pain improved. Cardiology thought that 
troponin leak related to recent abdominal surgery and demand 
ischemia, and cardiac catheterization was not indicated. Patient 
cardiac status was monitored with telemetry during admission and 
remained stable. 
Diet was advanced to regular diabetic on POD 2 and was well 
tolerated. Patient was discharged home on POD 3 in stable 
condition. Prior to discharge, patient's labs were noticeable 
for elevated WBC, she did not have any symptoms of infection and 
further work up was not indicated.  
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diabetic diet, ambulating, voiding without assistance, and pain 
was well controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
 
Flovent HFA (fluticasone) 220 mcg/actuation inhalation BID  
Plavix (clopidogrel) 75 mg oral DAILY  
Albuterol Inhaler 2 PUFF IH Q6H  
Fluticasone Propionate NASAL 2 SPRY NU QHS  
Furosemide 20 mg PO DAILY  
Gabapentin 200 mg PO QAM  
Gabapentin 300 mg PO QHS  
Humalog ___ 90 Units Breakfast Humalog ___ 90 Units 
DinnerMax Dose Override Reason: home dose  
Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY  
MetFORMIN (Glucophage) 1000 mg PO BID  
Metoprolol Succinate XL 100 mg PO DAILY  
Niacin SR 500 mg PO DAILY  
Nitroglycerin SL 0.4 mg SL Q5MIN:PRN up to 3 times  
Ranitidine 300 mg PO DAILY  
Simvastatin 5 mg PO QPM  
Venlafaxine XR 150 mg PO DAILY  
 Vitamin D ___ UNIT PO 1X/2WEEKS  

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Flovent HFA (fluticasone) 220 mcg/actuation inhalation BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
5.  Plavix (clopidogrel) 75 mg oral DAILY  
6.  Senna 8.6 mg PO BID:PRN Constipation   
7.  Albuterol Inhaler 2 PUFF IH Q6H  
8.  Fluticasone Propionate NASAL 2 SPRY NU QHS  
9.  Furosemide 20 mg PO DAILY  
10.  Gabapentin 200 mg PO QAM  
11.  Gabapentin 300 mg PO QHS  
12.  Humalog ___ 90 Units Breakfast
Humalog ___ 90 Units DinnerMax Dose Override Reason: home dose 

 
13.  Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY  
14.  MetFORMIN (Glucophage) 1000 mg PO BID  
15.  Metoprolol Succinate XL 100 mg PO DAILY  
16.  Niacin SR 500 mg PO DAILY  
17.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN up to 3 times  
18.  Ranitidine 300 mg PO DAILY  
19.  Simvastatin 5 mg PO QPM  
20.  Venlafaxine XR 150 mg PO DAILY  
21.  Vitamin D ___ UNIT PO 1X/2WEEKS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Chronic cholecystitis 
2. Demand ischemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted to the surgery service at ___ for surgical 
resection of your gallbladder. You recovery was complicated by 
chest pain and Cardiology was consulted. There is no changes in 
your home medications, and chest pain improved. You are now safe 
to return home to complete your recovery with the following 
instructions:
.
Please call ___ at ___ if you have any 
questions or concerns.
.
General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.

 
Followup Instructions:
___